US07915443B2
5-{3-[(3-Methyl-furan-2-carbonyl)-amino]-phenylethynyl}-nicotinic acid
In a manner similar to that described for Example 480 (step 1), 3-methyl-furan-2-carboxylic acid (3-ethynyl-phenyl)-amide and 5-bromo nicotinic acid were reacted to provide the title compound.

reactant | 3-methyl-furan-2-carboxylic acid (3-ethynyl-phenyl)-amide | C(#C)C=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C14H11NO2
reactant | 5-bromo nicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
product | 5-{3-[(3-Methyl-furan-2-carbonyl)-amino]-phenylethynyl}-nicotinic acid | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)O)C1 | C20H14N2O4
